US09227918B2
1j: 1-Isopropyl 3-methyl 2-(3-bromopropyl)-2-(3,4-dimethoxyphenyl)malonate
For Step 1, (3,4-dimethoxy-phenyl)-acetic acid methyl ester was substituted for (3,4-Dimethoxyphenyl)acetonitrile, isopropyl chloroformate was substituted for 2-bromopropane and LDA was substituted for NaHMDS. For Step 2, sodium hydride was substituted for NaHMDS.

reactant | (3,4-dimethoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC)=O | C11H14O4
reactant | (3,4-Dimethoxyphenyl)acetonitrile | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | sodium hydride | [H-].[Na+]
product | 1-Isopropyl 3-methyl 2-(3-bromopropyl)-2-(3,4-dimethoxyphenyl)malonate | BrCCCC(C(=O)OC(C)C)(C(=O)OC)C1=CC(=C(C=C1)OC)OC | C18H25BrO6
